US07176242B2
A mixture of methyl 2-chloro-6-methylpyrimidine-4-carboxylate (0.411 g, 2.20 mmol), di-n-propylamine (0.668 g, 6.60 mmol), triethylamine (0.267 g, 2.64 mmol), and THF (5 ml) was stirred at room temperature for 55 min and then at reflux for 1.3 h, at which time is was cooled and partitioned between ethyl acetate and a mixture of brine and aq. sodium bicarbonate. The organic layer was dried over magnesium sulfate and concentrated and then chromatographed on silica gel using ethyl acetate-hexane (90/10) to give methyl 2-(dipropylamino)-6-methylpyrimidine-4-carboxylate (0.457 g) as a pale yellow liquid.

reactant | methyl 2-chloro-6-methylpyrimidine-4-carboxylate | 2.20 mmol, 0.411 g | ClC1=NC(=CC(=N1)C(=O)OC)C | C7H7ClN2O2
reactant | di-n-propylamine | 6.60 mmol, 0.668 g | C(CC)NCCC | C6H15N
reactant | triethylamine | 2.64 mmol, 0.267 g | C(C)N(CC)CC | C6H15N
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | methyl 2-(dipropylamino)-6-methylpyrimidine-4-carboxylate | 0.457 g | C(CC)N(C1=NC(=CC(=N1)C(=O)OC)C)CCC | C13H21N3O2
